US06265135B1
In 300 ml of toluene, 83.1 g (0.5 mol) of p-cyclohexylphenol was dissolved, and then 150 g of 2-chloroethyl vinyl ether, 25 g of sodium hydroxide, 5 g of tetrabutylammonium bromide and 60 g of triethylamine were added thereto, followed by a reaction at 120° C. for 5 hours. The reaction solution was washed with water, and excess chloroethyl vinyl ether and toluene were removed by distillation. The resulting oil was purified by distillation under reduced pressure to obtain 4-cyclohexylphenoxyethyl vinyl ether.

reactant | p-cyclohexylphenol | 0.5 mol, 83.1 g | C1(CCCCC1)C1=CC=C(C=C1)O | C12H16O
reactant | 2-chloroethyl vinyl ether | 150 g | C(=C)OCCCl | C4H7ClO
reactant | sodium hydroxide | 25 g | [OH-].[Na+]
reactant | triethylamine | 60 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-cyclohexylphenoxyethyl vinyl ether | C(=C)OCCOC1=CC=C(C=C1)C1CCCCC1 | C16H22O2
